US08669271B2
4-(2-Chloro-furo[2,3-b]pyrazin-6-yl)-piperidine-1-carboxylic acid tert-butyl ester
Silver triflate (6 mg) and trifluoroacetic acid (0.36 mL) are added to a solution of 4-[6-chloro-4-(4-methoxy-benzyl)-3-oxo-3,4-dihydro-pyrazin-2-ylethynyl]-piperidine-1-carboxylic acid tert-butyl ester (430 mg) in dichloromethane (6 mL). The reaction mixture is stirred at room temperature for 20 min, diluted with dichloromethane and washed with aqueous NaHCO3 solution and brine. The organic phase is dried (MgSO4) and the solvent is evaporated. The residue is chromatographed on silica gel (ethyl acetate/cyclohexane 25:70) to give the title compound as a colorless solid.

reactant | trifluoroacetic acid | 0.36 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[6-chloro-4-(4-methoxy-benzyl)-3-oxo-3,4-dihydro-pyrazin-2-ylethynyl]-piperidine-1-carboxylic acid tert-butyl ester | 430 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC1=NC(=CN(C1=O)CC1=CC=C(C=C1)OC)Cl | C24H28ClN3O4
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
catalyst | Silver triflate | 6 mg | [O-]S(=O)(=O)C(F)(F)F.[Ag+]
product | 4-(2-Chloro-furo[2,3-b]pyrazin-6-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=2C(=NC=C(N2)Cl)O1 | C16H20ClN3O3
